US06399643B1
A suspension of 39.9 g (279 mmol) of 1-aminocyclohexane-1-carboxylic acid in a mixture of 75 ml of THF and 75 ml of water was treated dropwise with 23.8 ml of methyl chloroformate, dissolved in 40 ml of THF, such that the temperature of the suspension did not rise above 50° C. In the course of this, the pH of the solution was kept between 8.5 and 9.5 by addition of 25% strength sodium hydroxide solution. After stirring at pH 8 for 30 minutes, the mixture was diluted with water, the THF was removed in vacuo and the aqueous phase was washed twice with methyl tert-butyl ether. The aqueous phase was adjusted to pH 2 using 6 N hydrochloric acid and extracted successively with methyl tert-butyl ether and dichloromethane. The combined organic phases were concentrated in vacuo. The residue was triturated with diethyl ether and the product was filtered off. 47.85 g (85%) of 1-methoxycarbonylaminocyclohexane-1-carboxylic acid were obtained.

reactant | 1-aminocyclohexane-1-carboxylic acid | 279 mmol, 39.9 g | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | methyl chloroformate | 23.8 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | water | 75 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-methoxycarbonylaminocyclohexane-1-carboxylic acid | 47.85 g, 85% | COC(=O)NC1(CCCCC1)C(=O)O | C9H15NO4
